Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:7],3.79441494302
[O:1]=[C:2][C:9]([H:10])([H:11])[H:12].[O:3]=[C:4]([H:5])[C:6]([H:7])[H:8]>>[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.3834090104500003
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:7]#[C:8][O:9][H:10].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10],-2.73460569205
[H:1][C:2]#[C:3][C@@:5]([H:6])([C:7][O:8][H:9])[O:10][H:11].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7][O:8][H:9])[O:10][H:11],-1.94133118631
[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:4][C:5][C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:3],4.1978274222600005
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:8]([H:9])([H:10])[O:11][H:12].[H:7],4.99335928166
[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-8.32775312
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]#[C:10][H:11]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@@:7]12[O:8][C:9]1[C:10]2[H:11],-1.0391943307
[O:1][C@@:2]1([H:3])[O:4][C:5]1([H:6])[H:7]>>[O:1]=[C:2]([H:3])[C:5]([O:4])([H:6])[H:7],-0.16340773715
[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.46022555862
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][H:11]>>[C:8]([H:9])[O:10][H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7],5.787437565479999
[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4]=[O:5]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-0.43224700052
[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:5]([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][C:2]#[C:3][H:4],2.04846471163
[H:1]/[C:2]([C:3][O:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[H:8],4.11596693248
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][H:9]>>[H:9].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8],3.96483754855
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13].[H:1][C:2]#[C:3],5.665683970669999
[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[H:4].[O:1]=[C:2]([H:3])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],0.3793095637960001
[C:5]([H:6])[C:7]([H:8])([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])[C:9][H:10]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-7.65425550175
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-3.55857117987
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@:9]([H:10])([O:11][H:12])[C:13]([H:14])[H:15]>>[C:9]([H:10])([O:11][H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8],1.0829704092
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8][H:9]>>[C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8][H:9].[H:1],5.9897651967
[H:9].[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][H:8]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],-5.4597628480900005
[H:1][C:2][C:10]([H:11])([H:12])[H:13].[O:3]=[C:4]=[C:5]([H:6])[C:7]([H:8])[H:9]>>[H:1][C:2]([O:3][C:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.88558376129
[O:1]=[C:2]([H:3])[H:4].[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.8205646939210001
[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.8987475046
[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-5.643622388790001
[H:16].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.51655576504
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([C:5]([H:6])([H:7])[H:8])([H:10])[H:11].[H:1][C:2]([H:3])=[C:9][C:12]([H:13])([H:14])[H:15],4.311885642769998
